US09388161B2
Methyl (S)-5-(4-fluorophenoxy)-2-methyl-6-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate was synthesized from methyl (S)-6-bromo-5-(4-fluorophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate, and tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate according to the procedure outlined above for Example 58. 1H NMR (300 MHz, CDCl3) δ ppm 0.74-1.01 (m, 1H), 1.14 (d, J=6.74 Hz, 3H), 1.47-1.82 (m, 2H), 1.99-2.07 (m, 1H), 2.31 (br s, 1H), 2.44 (dt, J=17.00, 5.72 Hz, 1H), 2.52-2.72 (m, 1H), 2.77 (s, 3H), 3.16 (br s, 1H), 3.27-3.62 (m, 2H), 3.82 (s, 3H), 4.43 (br s, 1H), 4.57-4.84 (m, 2H), 4.85-5.10 (m, 1H), 6.68-6.75 (m, 2H), 6.86-6.98 (m, 2H), 7.27 (s, 1H), 7.41 (d, J=8.50 Hz, 1H), 7.57-7.78 (m, 2H). MS (ESI, pos. ion) m/z 479 [M+H]+.

reactant | methyl (S)-6-bromo-5-(4-fluorophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1=CC=C(C=C1)F | C18H17BrFNO3
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
product | Methyl (S)-5-(4-fluorophenoxy)-2-methyl-6-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | FC1=CC=C(OC2=C3CC[C@@H](N(C3=CC=C2C=2C=NN(C2)C2CCN(CC2)C)C(=O)OC)C)C=C1 | C27H31FN4O3
